US03944589
A solution of 22.9 g of 2-(p-bromophenyl)-1,3-dioxolan in 100 ml of tetrahydrofuran is added dropwise, at 60° C, to a well stirred suspension of 2.65 g of magnesium chips, which have been washed with chloroform and activated with iodine, in 100 ml of absolute tetrahydrofuran. The dropwise addition is carried out in such a manner that after the onset of the reaction, the temperature does not rise above 60° C. At the conclusion, the reaction mixture is heated for one hour, then cooled to 30° C and, while stirring, 11 g of cyclohexanone are added dropwise. After being heated for 1 hour to 50° C, the reaction mixture is evaporated in vacuo in a rotary evaporator and the residue mixed with ice and a saturated ammonium chloride solution. Extraction with ether is effected, and the ethereal extracts are dried over sodium sulphate and evaporated. The residue is distilled under a high vacuum and yields the 2-[p-(1-hydroxy-cyclohexyl)-phenyl]-1,3-dioxolan having a boiling point of 160°-170° C (0.05 mm Hg), which becomes solid on standing and melts at 95°-97° C after recrystallization from ether + petroleum ether.

reactant | 2-(p-bromophenyl)-1,3-dioxolan | 22.9 g | BrC1=CC=C(C=C1)C1OCCO1 | C9H9BrO2
reactant | magnesium | 2.65 g | [Mg] | Mg
reactant | cyclohexanone | 11 g | C1(CCCCC1)=O | C6H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-[p-(1-hydroxy-cyclohexyl)-phenyl]-1,3-dioxolan | OC1(CCCCC1)C1=CC=C(C=C1)C1OCCO1 | C15H20O3
